US06008243
To a solution of 4-aminobiphenyl (1.0 g, 5.9 mmol) in 1,2-dichloroethane (20 mL) was added TFA (0.46 ml, 5.9 mmol). To the resultant suspension of the TFA salt was added 2,5-dimethoxy-tetrahydrofuran (0.92 mL, 7.1 mmol). The suspension was heated at 75° C. for 17 hours. The mixture was allowed to cool, partitioned between EtOAc and 1M pH 7 phosphate buffer, and the aqueousueous layer was extracted again with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated to a crude residue, which was purified via flash column chromatography with 10-25% CH2Cl2 /hex gradient eluent. The purified material was triturated with MTBE/hex to give 800 mg (62%) of N-biphenyl-4-yl-1H-pyrrole as an off-white solid, mp190-2° C. 1H NMR: δ 7.65 (d, 2H, J=8.5 Hz), 7.61 (d, 2H, J=7.0 Hz), 7.48-7.43 (m, 4H), 7.36 (t, 1H, J=7.0 Hz), 7.14 (t, 2H, J=2.0 Hz), 6.37 (t, 2H, J=2.0 Hz). Anal. Calculated for C16H13N: C, 87.63; H, 5.98; N, 6.39. Found: C, 87.48; H, 6.01; N, 6.30.

reactant | 4-aminobiphenyl | 5.9 mmol, 1.0 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | TFA | 5.9 mmol, 0.46 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2,5-dimethoxy-tetrahydrofuran | 7.1 mmol, 0.92 mL | COC1OC(CC1)OC | C6H12O3
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | N-biphenyl-4-yl-1H-pyrrole | 800 mg, 62% | C1(=CC=C(C=C1)N1C=CC=C1)C1=CC=CC=C1 | C16H13N
